US05747517
Preparation of 5-[[3-(4-pentylphenoxy)phenyl]methylene]-2-thioxo-4-thiazolidinone
The 3-(4-n-pentylphenoxy)benzaldehyde was coupled with rhodanine in acetic acid and sodium acetate essentially as described previously to yield 1.3 grams (61.9%) of the title product. mp 125°-127° C. NMR. FDMS (M+) 383.

reactant | 3-(4-n-pentylphenoxy)benzaldehyde | C(CCCC)C1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C18H20O2
reactant | rhodanine | S1C(=S)NC(=O)C1 | C3H3NOS2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium acetate | C(C)(=O)[O-].[Na+]
product | 5-[[3-(4-pentylphenoxy)phenyl]methylene]-2-thioxo-4-thiazolidinone | 1.3 grams, 61.9% | C(CCCC)C1=CC=C(OC=2C=C(C=CC2)C=C2C(NC(S2)=S)=O)C=C1 | C21H21NO2S2
